US04532020
In a solution of phenylacetylene (4.08 g, 40 mmol) in dry ether (30 ml), n-butyllithium (27 ml, 1.5 M in hexane) was slowly added at -78° C. Trifluoroacetaldehyde (3.7 g, 38 mmol) was introduced in the above mixture under bubbling and the mixture was then agitated 2 hours at -78° C. After the temperature of reaction mixture was elevated to room temperature, the whole solution was poured into aqueous 2% HCl solution. Extraction was made for the oily layer using diethyl ether. The extracts were dried on magnesium sulfate and solvent was removed. Distillation gave 1,1,1-trifluoro-4-phenyl-3-butyne-2-ol (b.p.: 82° C./1.8 mmHg) at a yield of 74%. The above product gave the following analytical data:

reactant | phenylacetylene | 40 mmol, 4.08 g | C1(=CC=CC=C1)C#C | C8H6
reactant | Trifluoroacetaldehyde | 38 mmol, 3.7 g | FC(C=O)(F)F | C2HF3O
reactant | HCl | Cl | ClH
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | n-butyllithium | 1.5 M, 27 ml | C(CCC)[Li]
product | 1,1,1-trifluoro-4-phenyl-3-butyne-2-ol | yield of 74% | FC(C(C#CC1=CC=CC=C1)O)(F)F | C10H7F3O
